US06337390B1
B 1,2-Di-O-eicosyl-Sn-glycerol
3-O-benzyl-1,2-di-O-eicosyl-Sn-glycerol (1.47 g, 1.98 mmol) and 10% palladium-charcoal (200 mg) were stirred in ethyl acetate (30 ml) under the hydrogen atmosphere at room temperature for 18 h. The reaction mixture was filtered through celite, and the filtrate was concentrated in vacuo to obtain the title compound (934 mg, 72%) as white powder.

reactant | 3-O-benzyl-1,2-di-O-eicosyl-Sn-glycerol | 1.98 mmol, 1.47 g | C(C1=CC=CC=C1)OC[C@@H](COCCCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCCCC | C50H94O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-charcoal | 200 mg | [Pd] | Pd
product | 1,2-Di-O-eicosyl-Sn-glycerol | 934 mg, 72% | C(CCCCCCCCCCCCCCCCCCC)OC[C@@H](OCCCCCCCCCCCCCCCCCCCC)CO | C43H88O3
